US07078422B2
(5) 2-(2-Chlorophenyl)-4-(2-iodoethyl)-5-isopropyloxazole
In acetone (2 mL) was dissolved 2-(2-chlorophenyl)-5-isopropyl-4-[2-(p-toluenesulfonyloxy)ethyl]oxazole (123 mg, 0.293 mmol). To the solution was added sodium iodide (176 mg, 1.17 mmol). The mixture was heated overnight under reflux. The reaction mixture was allowed to reach room temperature, poured into water, and extracted with ethyl acetate. The organic layer was successively washed with water and saturated brine, dried over sodium sulfate, filtered, and concentrated, to obtain the desired compound (105 mg, 96%).

reactant | 2-(2-chlorophenyl)-5-isopropyl-4-[2-(p-toluenesulfonyloxy)ethyl]oxazole | 0.293 mmol, 123 mg | ClC1=C(C=CC=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C(C)C | C21H22ClNO4S
reactant | sodium iodide | 1.17 mmol, 176 mg | [I-].[Na+]
reactant | water | O | H2O
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 2-(2-Chlorophenyl)-4-(2-iodoethyl)-5-isopropyloxazole | 105 mg, 96% | ClC1=C(C=CC=C1)C=1OC(=C(N1)CCI)C(C)C | C14H15ClINO
